US05108485
Preparation of Ethyl 4-cyano-6,7-dihydro-1,3-dimethyl-1H indazole-5-carboxylate
A solution of ethyl 4-cyano-4,5,6,7-tetrahydro-1,3-dimethyl-4-(trimethylsilyloxy)-1H-indazole-5-carboxylate (28.1 g, 0.119 mol) in pyridine is mixed with phosphorus oxychloride (43.0 mL, 0.461 mol), stirred for 5 hours at reflux temperature and concentrated in vacuo. The resultant black residue is diluted with ethyl acetate and water and treated with sodium bicarbonate to pH 6. The phases are separated, the organic phase is set aside, and the aqueous phase is extracted with ethyl acetate. The organic phases are combined, washed with aqueous sodium bicarbonate and water, dried (MgSO4) and concentrated in vacuo to give a black residue. The residue is triturated under ethyl acetate to give the title product as a tan solid (15.5 g, 52.9%), identified by 1HNMR and IR spectroscopy.

reactant | ethyl 4-cyano-4,5,6,7-tetrahydro-1,3-dimethyl-4-(trimethylsilyloxy)-1H-indazole-5-carboxylate | 0.119 mol, 28.1 g | C(#N)C1(C=2C(=NN(C2CCC1C(=O)OCC)C)C)O[Si](C)(C)C | C16H25N3O3Si
reactant | phosphorus oxychloride | 0.461 mol, 43.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-cyano-6,7-dihydro-1,3-dimethyl-1H indazole-5-carboxylate | 15.5 g, 52.9% | C(#N)C=1C=2C(=NN(C2CCC1C(=O)OCC)C)C | C13H15N3O2
